US04180394
A solution of isopropanol (2.9 ml, 0.038 mole) and triethylamine (5.3 ml, 0.038 mole) in 50 ml. of ether was added to a solution of ethyl N-trifluoroacetyl-N-(dichlorophosphonomethyl)glycinate (13.2 g, 0.04 mole) in 150 ml. of ether at 0° C. After three hours, the solution was filtered and the cooled (0° C.) filtrate was treated with a solution of thiophenol (3.9 ml, 0.038 mole) and triethylamine (5.3 ml, 0.038 mole) in 50 ml. of ether. The resulting mixture was stirred at 25° C. for 16 hours, then filtered. The filtrate was washed with 3% hydrochloric acid, 3% ammonium hydroxide and saturated sodium chloride solution, then concentrated in vacuo. The residual oil was chromatographed on silica gel eluting with ethyl acetate/cyclohexane (6:4) to afford ethyl N-trifluoroacetyl-N-(isopropoxy(phenylthio)phosphonomethyl)glycinate (7.7 g) as a light yellow oil, ND25 =1.4951.

reactant | isopropanol | 0.038 mole, 2.9 ml | C(C)(C)O | C3H8O
reactant | triethylamine | 0.038 mole, 5.3 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl N-trifluoroacetyl-N-(dichlorophosphonomethyl)glycinate | 0.04 mole, 13.2 g | FC(C(=O)N(CC(=O)OCC)CP(=O)(OCl)OCl)(F)F | C7H9Cl2F3NO6P
reactant | thiophenol | 0.038 mole, 3.9 ml | C1(=CC=CC=C1)S | C6H6S
reactant | triethylamine | 0.038 mole, 5.3 ml | C(C)N(CC)CC | C6H15N
solvent | ether | CCOCC | C4H10O
product | ethyl N-trifluoroacetyl-N-(isopropoxy(phenylthio)phosphonomethyl)glycinate | 7.7 g | FC(C(=O)N(CC(=O)OCC)C(P(=O)(OSC1=CC=CC=C1)O)OC(C)C)(F)F | C16H21F3NO7PS
